data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_421744_1,[C:1]1([H:11])([H:12])[C:5]([C:2]([H:13])([H:14])[H:15])=[N:8][C:4]([N:7]([H:9])[H:10])=[C:6]1[C:3]([H:16])([H:17])[H:18]>>[C:1]1([H:11])([H:12])[C:5]2([C:2]([H:13])([H:14])[H:15])[C:6]1([C:3]([H:16])([H:17])[H:18])[C:4]([N:7]([H:9])[H:10])=[N:8]2,61.98507750001937
MR_631490_1,[C:1]([C:2]([H:15])([H:16])[H:17])([C:5]([N:7]([H:12])[H:13])=[O:10])([C:8](=[C:6]([C:3]([H:18])([H:19])[H:20])[C:4]([H:21])([H:22])[H:23])[H:14])[O:9][H:11]>>[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:8](/[C:6]([C:3]([H:18])([H:19])[H:20])([C:4]([H:21])([H:22])[H:23])[C:5]([N:7]([H:12])[H:13])=[O:10])[H:14])[O:9][H:11],69.9618574999974
MR_271292_1,[C@:1]1([C:3]([H:15])([H:16])[H:17])([H:10])[C:2]([H:13])([H:14])[C:7]([C:4]([H:18])([H:19])[H:20])=[C:6]([N:8]([H:11])[H:12])[N:5]1[H:9]>>[C@:1]1([C:3]([H:15])([H:16])[H:17])([H:10])[C:2]([H:13])([H:14])[C@@:7]1([C:4]([H:18])([H:19])[H:20])/[C:6](=[N:5]/[H:9])[N:8]([H:11])[H:12],62.60881249997837
MR_417195_0,[C:1]([N:3]([H:10])[H:11])(/[C:4](=[C:5](/[C:2]([H:14])([H:15])[H:16])[H:13])[H:12])([O:6][O:7][H:8])[H:9]>>[C:1](\[N:3]([H:10])[H:11])(=[C:4](\[C:5]([C:2]([H:14])([H:15])[H:16])([O:6][O:7][H:8])[H:13])[H:12])[H:9],41.777067499997
MR_555120_2,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([C:6](=[C:8]([H:19])[H:20])[H:13])=[C:7]([H:17])[H:18])([N:4]([H:9])[H:10])[N:5]([H:11])[H:12]>>[C:1]1([C:2]([H:14])([H:15])[H:16])([N:4]([H:9])[H:10])[C:3]([N:5]([H:11])[H:12])([C:6](=[C:8]([H:19])[H:20])[H:13])[C:7]1([H:17])[H:18],67.84153500003598
MR_37757_1,[C:1]([C:2]([O:4][H:6])=[O:5])([N:3]([H:7])[H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:5])[H:10])([N:3]([H:7])[H:8])([O:4][H:6])[H:9],55.328557500025255
MR_225398_2,[C:1](/[C:3]([O:7][H:9])=[N:8]\[C:6](=[C:4](\[C:2]([H:16])([H:17])[H:18])[N:5]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:3]1([O:7][H:9])[C:4]([C:2]([H:16])([H:17])[H:18])([N:5]([H:10])[H:11])[C:6]([H:12])=[N:8]1)([H:13])([H:14])[H:15],49.79714500000839
MR_114201_2,[C:1]([C:3]([O:6][H:10])=[O:8])(/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:7]/[O:5][H:9])([H:11])[H:12]>>[C:1](=[C:4]([C:2]([H:13])([H:14])[H:15])[N:7]([C:3]([O:6][H:10])=[O:8])[O:5][H:9])([H:11])[H:12],61.70395749998008
MR_168095_1,[C:1]1([N:6]([H:12])[H:13])([H:11])[C:5]([C:2]([O:7][H:9])([H:14])[H:15])([N:4]([C:3]([H:16])([H:17])[H:18])[H:10])[O:8]1>>[C:1]([C:2]([O:7][H:9])([H:14])[H:15])([C:5]([N:4]([C:3]([H:16])([H:17])[H:18])[H:10])=[O:8])([N:6]([H:12])[H:13])[H:11],27.63321750000188
MR_573247_1,[C:1](=[C:6]([N:7](/[C:3]([N:5]([H:10])[H:11])=[N:8]/[H:12])[C:4]([C:2]([H:16])([H:17])[H:18])=[O:9])[H:15])([H:13])[H:14]>>[C:1]([C:4]([C:2]([H:16])([H:17])[H:18])=[O:9])(/[C:6](=[N:7]/[C:3]([N:5]([H:10])[H:11])=[N:8]/[H:12])[H:15])([H:13])[H:14],48.61932749998587
MR_699164_2,[C:1](\[N:2]([H:9])[H:10])([O:5][H:8])=[N:6]/[O:4][C:3](=[O:7])[H:11]>>[C@:1]1([N:2]([H:9])[H:10])([O:5][H:8])[O:4][N:6]1[C:3](=[O:7])[H:11],44.37679999999645
MR_49580_1,[C:1]([N:4]([C:5]([C:2]([H:12])([H:13])[H:14])=[O:8])[C:6]([C:3]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])([H:9])([H:10])[H:11]>>[C:1](/[N:4]=[C:5](/[C:2]([H:12])([H:13])[H:14])[O:8][C:6]([C:3]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])([H:9])([H:10])[H:11],56.92679999998504
MR_137873_1,[C:1]([C:4]([H:17])([H:18])[H:19])([N:7]([C:2]([H:11])([H:12])[H:16])[C:3]([H:13])([H:14])[H:15])([N:9]=[C:8]([C:5]([H:20])([H:21])[H:25])[C:6]([H:22])([H:23])[H:24])[H:10]>>[C:1](\[C:4]([H:17])([H:18])[H:19])(=[N:9]/[C:8]([C:5]([H:20])([H:21])[H:25])([C:6]([H:22])([H:23])[H:24])[N:7]([C:2]([H:11])([H:12])[H:16])[C:3]([H:13])([H:14])[H:15])[H:10],52.70372499998217
MR_348048_1,[C:1]([C:3]([H:15])([H:16])[H:17])([O:6][H:8])([N:7](/[C:5](=[N:4]/[C:2]([H:12])([H:13])[H:14])[H:11])[H:10])[H:9]>>[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([C:2]([H:12])([H:13])[H:14])/[C:5](=[N:7]/[H:10])[H:11])([O:6][H:8])[H:9],65.75384249999217
MR_70691_1,[C:1]([C:4]([C:2]([C:3]([H:14])([H:15])[H:16])([O:7][H:11])[H:13])([O:8][H:10])[H:12])([O:5][H:9])=[O:6]>>[C:1]([C:4]([C:2]([C:3]([H:14])([H:15])[H:16])([O:7][H:11])[H:13])=[O:8])([O:5][H:9])([O:6][H:10])[H:12],54.26180750000768
MR_665001_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([N:6]([H:12])[H:13])=[O:7])([N:4]([H:8])[H:9])[N:5]([H:10])[H:11]>>[C:1]([C:3]([C:2]([H:14])([H:15])[H:16])=[O:7])([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[N:6]([H:12])[H:13],52.22368750001706
MR_402816_0,[C:1]([N:3]1[C:6]([C:4]([N:5]([H:9])[H:10])=[O:8])([H:11])[N:7]1[C:2]([H:15])([H:16])[H:17])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[C:6](\[N:7]([C:2]([H:15])([H:16])[H:17])[C:4]([N:5]([H:9])[H:10])=[O:8])[H:11])([H:12])([H:13])[H:14],52.62591499996461
MR_652130_1,[C:1](/[N:7]=[C:4](/[C:2]([H:13])([H:14])[H:15])[C:3]([O:5][O:6][H:9])=[O:8])([H:10])([H:11])[H:12]>>[C:1]([N:7]1[C:3](=[O:8])[C:4]1([C:2]([H:13])([H:14])[H:15])[O:5][O:6][H:9])([H:10])([H:11])[H:12],70.33835750000989
